US07452885B2
Preparation of 2-Amino-5-(2,6-diethyl-pyridin-4-yl)-5-[4-fluoro-3-(4-fluoropyridin-3-yl)-phenyl]-3-methyl-3,5-dihydro-imidazol-4-one
A mixture of 2-amino-5-(3-bromo-4-fluorophenyl)-5-(2,6-diethyl-pyridin-4-yl)-3-methyl-3,5-dihydro-imidazol-4-one (0.170 g, 0.405), 4-fluoropyridin-3-yl(tributly)tin (0.235 g, 0.608 mmol) and bis(triphenylphosphino)palladium(II) chloride (0.023 g, 0.032 mmol) in DMF (5 mL) was degassed and heated at 150° C. for 1 h. The mixture was cooled to room temperature and diluted with ethyl acetate (50 mL) and 2% aqueous lithium chloride (20 mL). The organic layer was separated, washed with 2% aqueous lithium chloride, dried over sodium sulfate, filtered, and concentrated. Purification of the resultant residue by flash chromatography (silica, 95:5:0.25 methylene chloride/methanol/concentrated ammonium hydroxide) afforded the title product (0.017 g, 10%) as a white solid, mp 92-100° C.; 1H NMR (300 MHz, CD3OD) δ 8.55-8.45 (m, 2H), 7.56-7.19 (m, 4H), 7.09 (s, 2H), 3.10 (s, 3H), 2.68 (q, J=7.5 Hz, 4H), 1.15 (t, J=7.5 Hz, 6H); ESI MS m/z 436 [C24H23F2N5O+OH]+.

reactant | 2-amino-5-(3-bromo-4-fluorophenyl)-5-(2,6-diethyl-pyridin-4-yl)-3-methyl-3,5-dihydro-imidazol-4-one | 0.170 g | NC1=NC(C(N1C)=O)(C1=CC(=NC(=C1)CC)CC)C1=CC(=C(C=C1)F)Br | C19H20BrFN4O
reactant | 4-fluoropyridin-3-yl(tributly)tin | 0.608 mmol, 0.235 g | FC1=C(C=NC=C1)[Sn](CCCC)(CCCC)CCCC
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | bis(triphenylphosphino)palladium(II) chloride | 0.032 mmol, 0.023 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)[Pd-](P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)Cl
product | 2-Amino-5-(2,6-diethyl-pyridin-4-yl)-5-[4-fluoro-3-(4-fluoropyridin-3-yl)-phenyl]-3-methyl-3,5-dihydro-imidazol-4-one | 0.017 g, 10% | NC1=NC(C(N1C)=O)(C1=CC(=C(C=C1)F)C=1C=NC=CC1F)C1=CC(=NC(=C1)CC)CC | C24H23F2N5O
